US04171365
A mixture of 18.45 g of 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-heptanedione, 7.73 g of carbethoxymethylhydrazine hydrochloride and 5 g of triethylamine in 100 ml of absolute ethanol was heated at reflux for 8 hours. The product was isolated and distilled to give 16.7 g of ethyl 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-diethyl-1H-pyrazol-1-acetate as a pale yellow oil, b.p. 205°-210° C. (0.05 mm); MIC=6-12 microg/ml (herpes 1 and 2).

reactant | 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-heptanedione | 18.45 g | ClC1=C(OCCCCCCC(C(CC)=O)C(CC)=O)C=CC(=C1)OC | C20H29ClO4
reactant | carbethoxymethylhydrazine hydrochloride | 7.73 g | Cl.C(=O)(OCC)CNN
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-[6-(2-chloro-4-methoxyphenoxy)hexyl]-3,5-diethyl-1H-pyrazol-1-acetate | 16.7 g | ClC1=C(OCCCCCCC=2C(=NN(C2CC)CC(=O)OCC)CC)C=CC(=C1)OC | C24H35ClN2O4
